US07704995B2
3-amino-6-bromo-N-methyl-2-pyrazinecarboxamide:
An ice-cooled solution of 50 g of methyl 3-amino-6-bromo-pyrazine-2-carboxylate in 500 mL of MeOH was saturated with methylamine gas. The reaction was then heated at 85° C. in a sealed, stainless steel Parr pressure vessel for 2 h, and cooled to room temperature, and then on an ice water bath. The mixture was concentrated to an oil on a rotary evaporator under reduced pressure. The crude oil was dissolved in EtOAc and washed with water, dried (Na2SO4), filtered, and concentrated to give 43.9 g (88.0% yield) of product as a solid.

reactant | methyl 3-amino-6-bromo-pyrazine-2-carboxylate | 50 g | NC=1C(=NC(=CN1)Br)C(=O)OC | C6H6BrN3O2
reactant | methylamine | CN | CH5N
solvent | MeOH | 500 mL | CO | CH4O
product | 3-amino-6-bromo-N-methyl-2-pyrazinecarboxamide | 43.9 g, 88.0% yield | NC=1C(=NC(=CN1)Br)C(=O)NC | C6H7BrN4O
